US07884210B2
In a nitrogen atmosphere a solution of cyclopentanecarboxylic acid (4-methanesulfonyl-phenyl)-amide (10 mmol) in THF (20 mL) was added a solution of 1M BH3 in THF (20 mL). The mixture was refluxed for 3H and cooled to RT. Addition of 10 mL of MeOH followed by reflux for 15 min. The mixture was cooled and added water (100 mL) and EtOAc (200 mL). The organic phase was isolated and washed with 1N NaOH, water and brine, dried (MgSO4), filtered and concentrated in vacuo to afford cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine as a yellow solid.

reactant | cyclopentanecarboxylic acid (4-methanesulfonyl-phenyl)-amide | 10 mmol | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1CCCC1 | C13H17NO3S
reactant | MeOH | 10 mL | CO | CH4O
reactant | water | 100 mL | O | H2O
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine | C1(CCCC1)CNC1=CC=C(C=C1)S(=O)(=O)C | C13H19NO2S
